US03969366
b. 3-[5-Chloro-2-(methylamino)phenyl]-4-[2-oxo-2-(1-pyrrolidinyl)-ethyl]-1,2,4-triazole, hydrochloride (1:1)
Following the procedure of example 1b but substituting an equivalent amount of 10-chloro-7-methyl-5H-s-triazolo[4,3-d]-[1,4]benzodiazepin-6(7H)-one for the 10-chloro-7-methyl-3-(trifluoromethyl)-5H-s-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one, one obtains the titled compound.

reactant | 10-chloro-7-methyl-5H-s-triazolo[4,3-d]-[1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C=3N(CC(N2C)=O)C=NN3)C1 | C11H9ClN4O
reactant | 10-chloro-7-methyl-3-(trifluoromethyl)-5H-s-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C=3N(CC(N2C)=O)C(=NN3)C(F)(F)F)C1 | C12H8ClF3N4O
product | 3-[5-Chloro-2-(methylamino)phenyl]-4-[2-oxo-2-(1-pyrrolidinyl)-ethyl]-1,2,4-triazole, hydrochloride | Cl.ClC=1C=CC(=C(C1)C1=NN=CN1CC(N1CCCC1)=O)NC | InChI=1S/C15H18ClN5O.ClH/c1-17-13-5-4-11(16)8-12(13)15-19-18-10-21(15)9-14(22)20-6-2-3-7-20;/h4-5,8,10,17H,2-3,6-7,9H2,1H3;1H
